US08067362B2
Step 4: Synthesis of 15-[(3,5-Bis-tert-butoxycarbonylmethoxybenzyl)-(2-carboxyethyl)carbamoyl]pentadecanoic acid 4-methoxybenzyl ester
Hexadecanedioic acid mono-(4-methoxy-benzyl)ester (0.4 g, 0.98 mmol) was dissolved in ethyl acetate (10 mL). N-Ethyl-N-(3-dimethylaminopropyl)-carbodiimide hydrochloride (0.187 g, 0.98 mmol) and 1-hydroxy-7-azabenzotriazole (0.134 g, 0.98 mmol) was added and the mixture was stirred at 50° C. for 1 hour. After cooling to room temperature, diisopropylethylamin (0.50 mL, 2.95 mmol) was added followed by 3-(3,5-Bis-tert-butoxycarbonylmethoxybenzylamino)propionic acid (0.432 g, 0.98 mmol). The mixture was stirred overnight under nitrogen at room temperature. The mixture was separated between ethyl acetate (200 mL) and water (2×100 mL). The organic phase was dried (Na2SO4), solvent removed in vacuo. The crude product was purified by RP-HPLC on C18-column, buffer A: 0.1% TFA, buffer B: MeCN+0.1% TFA; gradient 80-100% B to yield the title compound.

reactant | Hexadecanedioic acid mono-(4-methoxy-benzyl)ester | 0.98 mmol, 0.4 g | COC1=CC=C(COC(CCCCCCCCCCCCCCC(=O)O)=O)C=C1 | C24H38O5
reactant | 1-hydroxy-7-azabenzotriazole | 0.98 mmol, 0.134 g | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | diisopropylethylamin | 2.95 mmol, 0.50 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 3-(3,5-Bis-tert-butoxycarbonylmethoxybenzylamino)propionic acid | 0.98 mmol, 0.432 g | C(C)(C)(C)OC(=O)COC=1C=C(CNCCC(=O)O)C=C(C1)OCC(=O)OC(C)(C)C | C22H33NO8
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | 15-[(3,5-Bis-tert-butoxycarbonylmethoxybenzyl)-(2-carboxyethyl)carbamoyl]pentadecanoic acid 4-methoxybenzyl ester | COC1=CC=C(COC(CCCCCCCCCCCCCCC(N(CCC(=O)O)CC2=CC(=CC(=C2)OCC(=O)OC(C)(C)C)OCC(=O)OC(C)(C)C)=O)=O)C=C1 | C46H69NO12
